US05574178
Pyridine (180 mg, 2.2 mmol) was added to a solution of 4-tert-butyl-5-hydroxy-2-hydroxymethyl-2,3-dihydrobenzofuran (430 mg, 1.9 mmol) in benzene (15 ml) and, subsequently, thionyl chloride (310 mg, 2.6 mmol) was added dropwise under ice cooling. After being allowed to warm to room temperature, the mixture was heated under reflux for 24 h. After cooling, water was added and the solution was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and water, then dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (chloroform) to afford 4-tert-butyl-2-chloromethyl-5-hydroxy-2,3-dihydrobenzofuran [280 mg (yield, 61%)] as a colorless oil. Mass 242(M+2), 240(M+), 227, 225, 57

reactant | Pyridine | 2.2 mmol, 180 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-tert-butyl-5-hydroxy-2-hydroxymethyl-2,3-dihydrobenzofuran | 1.9 mmol, 430 mg | C(C)(C)(C)C1=C(C=CC2=C1CC(O2)CO)O | C13H18O3
reactant | thionyl chloride | 2.6 mmol, 310 mg | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 4-tert-butyl-2-chloromethyl-5-hydroxy-2,3-dihydrobenzofuran | 280 mg, 61% | C(C)(C)(C)C1=C(C=CC2=C1CC(O2)CCl)O | C13H17ClO2
